US06875873B2
1,4-diamino-2-(thiazol-2-yl)benzene;
1,4-diamino-2-(4,5-dimethylthiazol-2-yl)benzene; 1,4-diamino-2-(4-phenylthiazol-2-yl)benzene and 1,4-diamino-2-(4-methylthiazol-2-yl)benzene.

reactant | 1,4-diamino-2-(4,5-dimethylthiazol-2-yl)benzene | NC1=C(C=C(C=C1)N)C=1SC(=C(N1)C)C | C11H13N3S
reactant | 1,4-diamino-2-(4-phenylthiazol-2-yl)benzene | NC1=C(C=C(C=C1)N)C=1SC=C(N1)C1=CC=CC=C1 | C15H13N3S
reactant | 1,4-diamino-2-(4-methylthiazol-2-yl)benzene | NC1=C(C=C(C=C1)N)C=1SC=C(N1)C | C10H11N3S
product | 1,4-diamino-2-(thiazol-2-yl)benzene | NC1=C(C=C(C=C1)N)C=1SC=CN1 | C9H9N3S
